US05726172
To a stirred solution of methyl 4-hydroxy-2-methoxybenzoate (713 mg, 3.92 mmol) in dry THF (7.5 mL) was added triphenylphosphine (1.42 g, 5.4 mmol) and the solution was cooled to 0° C. A 2.5 mL volume of tetrahydro-4H-pyran-4-ol (466 mL, 4.90 mmol) and diethyl azodicarboxylate (850 μL, 5.4 mmol) in THF was added dropwise via addition funnel over 0.5 h. The reaction was filtered and the solvent was removed under reduced pressure. The residue was chromatographed on a silica gel column packed in 60:40 hexanes:EtOAc and eluted with same. The appropriate fractions were combined and the solvent removed under reduced pressure to afford methyl 4-(4-tetra-hydropyranoyloxy)-2-methoxy-benzoate.

reactant | methyl 4-hydroxy-2-methoxybenzoate | 3.92 mmol, 713 mg | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | triphenylphosphine | 5.4 mmol, 1.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydro-4H-pyran-4-ol | 4.90 mmol, 466 mL | O1CCC(CC1)O | C5H10O2
reactant | diethyl azodicarboxylate | 5.4 mmol, 850 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | methyl 4-(4-tetra-hydropyranoyloxy)-2-methoxy-benzoate | O1CCC(CC1)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C15H18O6
